US08877772B2
Preparation of 3-pyridin-3-ylmethyl-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
To a solution of 3-pyridin-4-ylmethylene-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (50 mg, 0.128 mmol) in MeOH (4 ml) was added ammonium formate (245 mg, 3.85 mmol) and Pd/C (10%, 30 mg). The mixture was stirred at room temperature for 3 hrs after which it was filtered, evaporated, and partitioned between water and DCM. The title compound (33 mg, 66%) was obtained after silica gel chromatography eluting with 0-10% MeOH:DCM. 1H NMR (CDCl3, 300 MHz): δ 10.05 (s, 1H), 8.60 (d, J=2.6 Hz, 1H), 8.45 (d, J=1.1 Hz, 1H), 8.38 (d, J=1.2 Hz, 1H), 7.62 (d, J=4.7 Hz, 1H), 7.35 (dd, J=2.9, 4.7 Hz, 1H), 6.53 (d, J=1.2 Hz, 1H), 6.38 (s, 1H), 3.95 (m, 1H), 3.90 (m, 1H), 3.85 (s, 6H), 3.84 (s, 3H), 3.84 (m, 1H).

reactant | 3-pyridin-4-ylmethylene-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 0.128 mmol, 50 mg | N1=CC=C(C=C1)C=C1C(NC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H19N3O4
reactant | ammonium formate | 3.85 mmol, 245 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 4 ml | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 3-pyridin-3-ylmethyl-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 33 mg, 66% | N1=CC(=CC=C1)CC1C(NC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H21N3O4
